US07098212B2
(2-{3-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-3-oxo-propyl}-5-methyl-phenoxy)-acetic acid methyl ester
To a solution of 1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-3-(2-hydroxy-4-methyl-phenyl)-propan-1-one, (0.15 g, 0.38 mmol) in tetrahydrofuran (2 mL) at 0° C. was added sodium hydride (0.023 g, 0.57 mmol). The reaction was stirred for 5 minutes, then bromoacetic acid methyl ester (0.043 mL, 0.45 mmol) was added and the reaction was stirred at ambient temperature overnight. The reaction was quenched by the addition of water and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give the title compound (0.18 g).

reactant | 1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-3-(2-hydroxy-4-methyl-phenyl)-propan-1-one | 0.38 mmol, 0.15 g | FC1=CC=C(CN2C[C@H](N(C[C@@H]2C)C(CCC2=C(C=C(C=C2)C)O)=O)C)C=C1 | C23H29FN2O2
reactant | sodium hydride | 0.57 mmol, 0.023 g | [H-].[Na+]
reactant | bromoacetic acid methyl ester | 0.45 mmol, 0.043 mL | COC(CBr)=O | C3H5BrO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2-{3-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-3-oxo-propyl}-5-methyl-phenoxy)-acetic acid methyl ester | 0.18 g | COC(COC1=C(C=CC(=C1)C)CCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H33FN2O4
